US07001897B2
To a solution of 3-hydroxy-1-[4-(4-methylpiperazine-1-carbonyl)-1,3-thiazol-2-yl]azetidine (422 mg, 1.49 mmol) (obtained as described in Reference Example 30(2)) in methylene chloride (21 ml) were added methanesulfonyl chloride (0.14 ml, 1.79 mmol) and triethylamine (0.25 ml, 1.79 mmol) in an ice bath, and then the mixture was stirred for 1 hour. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using toluene:methanol (3:1) as the eluant to afford 3-methanesulfonyloxy-1-[4-(4-methylpiperazine-1-carbonyl)-1,3-thiazol-2-yl]azetidine (537 mg, yield 100%) as a pale yellow solid.

reactant | 3-hydroxy-1-[4-(4-methylpiperazine-1-carbonyl)-1,3-thiazol-2-yl]azetidine | 1.49 mmol, 422 mg | OC1CN(C1)C=1SC=C(N1)C(=O)N1CCN(CC1)C | C12H18N4O2S
reactant | methanesulfonyl chloride | 1.79 mmol, 0.14 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.79 mmol, 0.25 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 21 ml | C(Cl)Cl | CH2Cl2
product | 3-methanesulfonyloxy-1-[4-(4-methylpiperazine-1-carbonyl)-1,3-thiazol-2-yl]azetidine | 537 mg, yield 100% | CS(=O)(=O)OC1CN(C1)C=1SC=C(N1)C(=O)N1CCN(CC1)C | C13H20N4O4S2
